* C:\Users\Eddy\Documents\Verstärkermodul\Verstärkermodul.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 30.05.2016 20:55:40

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
D3  Net-_C8-Pad2_ Net-_C5-Pad1_ Net-_C5-Pad2_ Net-_C6-Pad2_ Net-_D3-Pad5_ Net-_D3-Pad6_ GND GND +3V3 GND GND Net-_D3-Pad12_ ? ? ? ? GND ? ? ? ? ? ? ? ? ? ? ? ? ? Net-_D3-Pad31_ ? VCC Net-_C14-Pad2_ /SPK_OUTB+ GND /SPK_OUTB- Net-_C15-Pad2_ Net-_C9-Pad2_ /SPK_OUTA- GND /SPK_OUTA+ Net-_C13-Pad2_ VCC VCC VCC GND Net-_C10-Pad1_ Net-_D3-Pad31_ TAS5760MDCAR		
RV1  Net-_C10-Pad1_ Net-_C8-Pad2_ GND 100k POT		
C10  Net-_C10-Pad1_ GND 1uF/16V		
C8  GND Net-_C8-Pad2_ 1uF/16V		
C6  Net-_C5-Pad2_ Net-_C6-Pad2_ 1uF/16V		
C5  Net-_C5-Pad1_ Net-_C5-Pad2_ 1uF/16V		
C4  +3V3 GND 1uF/16V		
C16  ? GND 4,7uF/50V		
C11  ? GND 0,1uF/50V		
C18  VCC GND 470uF/50V		
C13  /SPK_OUTA+ Net-_C13-Pad2_ 0,22uF/25V		
C17  ? GND 4,7uF/50V		
C12  ? GND 0,1uF/50V		
C9  /SPK_OUTA- Net-_C9-Pad2_ 0,22uF/25V		
C15  /SPK_OUTB- Net-_C15-Pad2_ 0,22uF/25V		
C14  /SPK_OUTB+ Net-_C14-Pad2_ 0,22uF/25V		
L1  /SPK_OUTA+ Net-_C19-Pad1_ 10uH/4,5A		
L2  /SPK_OUTA- Net-_C20-Pad1_ 10uH/4,5A		
L3  /SPK_OUTB- Net-_C21-Pad1_ 10uH/4,5A		
L4  /SPK_OUTB+ Net-_C22-Pad1_ 10uH/4,5A		
C19  Net-_C19-Pad1_ GND 0,68uF/50V		
C20  Net-_C20-Pad1_ GND 0,68uF/50V		
C21  Net-_C21-Pad1_ GND 0,68uF/50V		
C22  Net-_C22-Pad1_ GND 0,68uF/50V		
U2  Net-_R3-Pad1_ Net-_C7-Pad1_ VDD LM317_SOT223		
C3  VDD GND 0,1uF		
C7  Net-_C7-Pad1_ GND 0,1uF		
R5  Net-_R3-Pad1_ Net-_C7-Pad1_ 240		
R3  Net-_R3-Pad1_ GND 392		
D1  Net-_D1-Pad1_ +3V3 LED_RED		
C1  Net-_C1-Pad1_ GND 1uF/16V		
C2  Net-_C2-Pad1_ GND 1uF/16V		
R1  +3V3 Net-_C1-Pad1_ 100k		
R2  Net-_D3-Pad6_ Net-_C2-Pad1_ 100k		
U1  Net-_C1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad2_ Net-_D3-Pad6_ Net-_C2-Pad1_ Net-_D3-Pad12_ GND ? ? ? ? ? ? +3V3 SN74LVC14ADG4		
R4  Net-_D1-Pad1_ Net-_D3-Pad5_ 392		
D2  Net-_D2-Pad1_ Net-_C7-Pad1_ LED_GRN		
R6  Net-_D2-Pad1_ GND 392		

.end
